US08293911B2
Step A: N-(4-Bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butanamide
3,3-Dimethylbutanoyl chloride (3.37 g, 3.5 mL, 25 mmol) and triethylamine (2.53 g, 3.5 mL, 25 mmol) were added to a solution of 4-bromo-2,6-dimethyl-phenylamine (5.0 g, 25 mmol) in acetonitrile (30 mL). The reaction mixture was stirred at room temperature for 4 hours. Water was added to the mixture, and the precipitate which formed was collected to give the title compound as a powder (7.46 g, 100% yield).

reactant | 3,3-Dimethylbutanoyl chloride | 25 mmol, 3.5 mL, 3.37 g | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | triethylamine | 25 mmol, 3.5 mL, 2.53 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2,6-dimethyl-phenylamine | 25 mmol, 5.0 g | BrC1=CC(=C(C(=C1)C)N)C | C8H10BrN
reactant | Water | O | H2O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-(4-Bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butanamide | 7.46 g, 100% yield | BrC1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C14H20BrNO
